US05216015
Step 3: Preparation of 3α, 12α-dihydroxy-5β-chol-8(14)-en-24-yl p-toluenesulfonate
A solution of 3α, 12α-dihydroxy-5β-chol-8(14)-en-24-ol (12.8 g) in methylene chloride/acetonitrile (1:1) (180 ml) is cooled to -5° C. Triethylamine (6 ml), 4-dimethylaminopyridine (0.435 g), and p-toluenesulfonyl chloride (6.65 g) are added and the solution stirred at 0° to 4° C. for about 18 hours. The solution is diluted with ethyl acetate/methanol (9:1), washed with brine and the organic solution dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product is purified by flash chromatography in ether, followed by 10% methanol in ethyl acetate to give the desired product.

reactant | 3α, 12α-dihydroxy-5β-chol-8(14)-en-24-ol | 12.8 g | O[C@H]1C[C@H]2CCC3=C4CC[C@H]([C@@H](CCCO)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C | C24H40O3
reactant | Triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 6.65 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride acetonitrile | 180 ml | C(Cl)Cl.C(C)#N
catalyst | 4-dimethylaminopyridine | 0.435 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 3α, 12α-dihydroxy-5β-chol-8(14)-en-24-yl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCC[C@@H](C)[C@H]1CCC2=C3CC[C@@H]4C[C@@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)O)O)C | C31H46O5S
